US08466282B2
Methyl 2-chloro-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate
Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate (1.50 g) was dissolved in phosphorus oxychloride (18 ml) and the mixture was stirred at 100° C. for 10 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was diluted with saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (454 mg).

reactant | Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate | 1.50 g | COCCCCC1=C(NC(N1C1=CC=CC=C1)=O)C(=O)OC | C16H20N2O4
reactant | phosphorus oxychloride | 18 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 2-chloro-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate | 454 mg | ClC=1N(C(=C(N1)C(=O)OC)CCCCOC)C1=CC=CC=C1 | C16H19ClN2O3
